*LS Hex Inverter - type:digital pkg:DIP14 (A:1,2)(B:3,4)(C:5,6)(D:9,8)(E:11,10)(F:13,12)
.SUBCKT Xinv PWR GND IN OUT
A1 [PWR GND IN] [DIPWR DIGND DIN] adc_mod
A2 [DIPWR DIGND DIN][DOPWR DOIN DOUT] A74LS04
A3 [DOPWR DOIN DOUT] [PWR IN OUT] dac_mod
.model dac_mod xdac
.model adc_mod xadc
.model A74LS04 xsimcode(file=C:\CM50_32\MODEL\LS.txt func=ls04 )
.ENDS Xinv
