*XPOT:Potentiometer Subcircuit Parameters
*XPOT:VALUE:|Total resistance [1,]|1k
*XPOT:WIPER:|Percent on [1,100]%|50
*{VALUE=1k WIPER=50}
*Generic type:potentiometer
.SUBCKT XPOT 1 2 3
R1 1 2 {((VALUE * WIPER)/100)}
R2 2 3 {(VALUE - ((VALUE * WIPER)/100))}
.ENDS XPOT

*alias:XPOT {VALUE=1k WIPER=50}
.PARAM A1k

