*XTRANS:Transformer Subcircuit Parameters
*XTRANS:RATIO:|Turns ratio= Secondary/Primary [1m,]|1
*XTRANS:RP:|Primary DC resistance [0,]|0.1
*XTRANS:RS:|Secondary DC resistance[0,]|0.1
*XTRANS:LEAK:|Leakage inductance[0,]|1u
*XTRANS:MAG:|Magnetizing inductance[0,]|1u
*{RATIO=1 RP=0.1 RS=0.1 LEAK=1u MAG=1u}
*Generic type:transformer
.SUBCKT XTRAN1 1 2 3 4
VISRC 9 4 DC 0V
FCTRL 6 2 VISRC {RATIO}
EVCVS 8 9 5 2 {RATIO}
RPRI  1 7 {RP}
RSEC  8 3 {RS}
LLEAK 7 5 {LEAK}
LMAGNET 6 5 {MAG}
.ENDS XTRAN1

*alias:XTRANS {RATIO=10}
.PARAM A1to10

*alias:XTRANS {RATIO=5}
.PARAM A1to5

*alias:XTRANS {RATIO=2}
.PARAM A1to2

*alias:XTRANS {RATIO=1}
.PARAM A1to1

*alias:XTRANS {RATIO=0.5}
.PARAM A2to1

*alias:XTRANS {RATIO=0.2}
.PARAM A5to1

*alias:XTRANS {RATIO=0.1}
.PARAM A10to1
